US08034812B2
Production of N-{2-fluoro-5-[(2-{[(methoxyamino)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride (200 mg, 0.48 mmol), 1,1′-carbonylimidazole (233 mg, 1.44 mmol), O-methylhydroxyammonium chloride (120 mg, 1.44 mmol), triethylamine (0.27 mL, 1.92 mmol) and N,N-dimethylformamide (6.0 mL), and by a reaction in the same manner as in Example 200, the title compound (117 mg, 54%) was obtained as pale-yellow crystals.

reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride | 0.48 mmol, 200 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1
reactant | O-methylhydroxyammonium chloride | 1.44 mmol, 120 mg | [Cl-].CO[NH3+]
reactant | triethylamine | 1.92 mmol, 0.27 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
product | N-{2-fluoro-5-[(2-{[(methoxyamino)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 117 mg, 54% | FC1=C(C=C(C=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)NOC)NC(=O)C2=CC(=NN2C)C | C20H19FN8O4
